US07622469B2
2-Amino-1,6-dihydro-6,6-dimethyl-4-nonylamino-1-phenyl-1,3,5-triazine hydrochloride
100 ml of methanol, 80 ml of acetone and 0.6 ml of concentrated hydrochloric acid were added to 9.0 g (23.9 mmol) of N1-phenyl-N5-nonyl-biguanide dihydrochloride. The mixture was refluxed for 24 hours, and the solvent was distilled off under reduced pressure. The residue was recrystallized from methyl ethyl ketone to obtain 3.8 g of colorless crystals having a melting of 134 to 137° C.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
reactant | N1-phenyl-N5-nonyl-biguanide dihydrochloride | 23.9 mmol, 9.0 g | Cl.Cl.C1(=CC=CC=C1)NC(=N)NC(=N)NCCCCCCCCC
reactant | acetone | 80 ml | CC(=O)C | C3H6O
product | 2-Amino-1,6-dihydro-6,6-dimethyl-4-nonylamino-1-phenyl-1,3,5-triazine hydrochloride | 3.8 g | Cl.NC=1N(C(N=C(N1)NCCCCCCCCC)(C)C)C1=CC=CC=C1 | InChI=1S/C20H33N5.ClH/c1-4-5-6-7-8-9-13-16-22-19-23-18(21)25(20(2,3)24-19)17-14-11-10-12-15-17;/h10-12,14-15H,4-9,13,16H2,1-3H3,(H3,21,22,23,24);1H
